US07662771B2
5-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid
Add a solution of LiOH.H2O (1.83 g, 43.5 mmol) in water (30 mL) to a rapidly stirred solution of 5-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (2.64 g, 8.7 mmol) in dioxane (60 mL) and stir overnight at room temperature. After 1 hour, acidify to pH 1 with 5N HCl solution and concentrate to remove the majority of the dioxane. Partition residue between 20% i-PrOH/CHCl3 and 1N HCl solution and separate layers. Backextract from aqueous layer with 20% i-PrOH/CHCl3 and dry combined organic layers over MgSO4, and concentrate to get 2.5 grams of a yellow oil. Recrystallize from EtOAc/hexanes to afford the title compound (1.96 g, 82%). MS (IS) 276 (M+1)+.

reactant | LiOH.H2O | 43.5 mmol, 1.83 g | O[Li].O
reactant | 5-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 8.7 mmol, 2.64 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC=C1)OC)=O | C17H21NO4
reactant | HCl | 5N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 5-[5-(2-Methoxy-phenyl)-isoxazol-3-yl]-pentanoic acid | 2.5 grams | COC1=C(C=CC=C1)C1=CC(=NO1)CCCCC(=O)O | C15H17NO4
